US07041685B2
2-(3-Chloro-thiophen-2-yl)-4-(4-trifluoromethyl-phenyl)-oxazole
3-Chloro-thiophene-2-carboxamide (0.145 g, 0.898 mmol) and 4-trifluoromethyl-phenacyl bromide (0.200 g, 0.749 mmol) were placed in a sealed tube and heated at 150° C. for 4 h. The reaction mixture was quenched with ethyl acetate and the residue was purified by column chromatography (gradient 100:1, 20:1 hexane:dichloromethane). The product was further purified by preparative-TLC (100:1, hexane:dichloromethane) to yield 0.0148 g (5.0%) of the title compound as a white solid. 1H NMR (Acetone-d6): 8.58 (s, 1H), 8.01 (d, J=8.1 Hz, 2H), 7.71 (t, 3H), 7.10 (d, J=5.1 Hz, 1H), 7.08 (d, J=5.7 Hz, 1H).

reactant | 3-Chloro-thiophene-2-carboxamide | 0.898 mmol, 0.145 g | ClC1=C(SC=C1)C(=O)N | C5H4ClNOS
reactant | 4-trifluoromethyl-phenacyl bromide | 0.749 mmol, 0.200 g | FC(C1=CC=C(C(CBr)=O)C=C1)(F)F | C9H6BrF3O
product | 2-(3-Chloro-thiophen-2-yl)-4-(4-trifluoromethyl-phenyl)-oxazole | 0.0148 g, 5.0% | ClC1=C(SC=C1)C=1OC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C14H7ClF3NOS
